US07132539B2
Preparation of 2-[3-cyclopropyl-2-(2-nitro-benzenesulfonylamino)-propionylamino]-3-naphthalen-2-yl-propionic acid methyl ester (12):
To a solution of cyclopropyl-2-(2-nitro-benzenesulfonylamino)-propionic acid (7.74 mmol) in DMF (10 mL) are added 2-(S)-amino-3-naphthalen-2-yl-propionic acid methyl ester (3.1 g, 11.7 mmol), N-methylmorpholine (4.67 g, 46.27 mmol), 1-hydroxybenzotriazole (17.76 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (1.93 g, 10.07 mmol) consecutively. The resulting mixture is stirred for 4 hours, quenched with aqueous NH4Cl and extracted with ethyl acetate. The combined extracts are dried over Na2SO4, filtered and concentrated in vacuo. The residue is purified over silica gel (hexanes/ethyl acetate, 1:1) to afford 3.46 g (85% yield) of the desired product. 1H NMR (300 MHz, CDCl3) δ 8.04 (dd, J=7.7, 1.4 Hz, 1H), 7.42–7.68 (m, 9H), 7.24 (dd, J=8.4, 1.5 Hz, 1H), 6.94 (d, J=8.1 Hz, 1H), 6.20 (d, J=6.9 Hz, 1H), 4.84–4.96 (m, 1H), 3.98–4.07 (m, 1H), 3.71 (s, 3H), 3.29 (dd, J=14.0, 5.6 Hz, 1H), 3.14 (dd, J=14.0, 7.4 Hz, 1H), 1.62–1.72 (m, 1H), 1.23–1.42 (m, 1H), 0.02–0.40 (m, 3H), −0.14–0.02(, 2H); 13C NMR (75 MHz, CDCl3) δ 171.74, 170.45, 147.91, 134.02, 133.73, 133.61, 133.18, 132.70, 131.07, 128.55, 128.32, 127.89, 127.41, 126.54, 126.12, 125.76, 58.59, 53.56, 52.74, 38.34, 37.55, 6.86, 4.38; MS (ESMS) m/z 526.1 (M+H)+.

reactant | cyclopropyl-2-(2-nitro-benzenesulfonylamino)-propionic acid | 7.74 mmol | C1(CC1)C(C(=O)O)(C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C12H14N2O6S
reactant | 2-(S)-amino-3-naphthalen-2-yl-propionic acid methyl ester | 11.7 mmol, 3.1 g | COC([C@H](CC1=CC2=CC=CC=C2C=C1)N)=O | C14H15NO2
reactant | N-methylmorpholine | 46.27 mmol, 4.67 g | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 17.76 mmol | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 10.07 mmol, 1.93 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[3-cyclopropyl-2-(2-nitro-benzenesulfonylamino)-propionylamino]-3-naphthalen-2-yl-propionic acid methyl ester | 3.46 g, 85% yield | COC(C(CC1=CC2=CC=CC=C2C=C1)NC(C(CC1CC1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C26H27N3O7S
